US05240935
A mixture of ethyl 3,4,8-trimethyl-2-(phenylmethyl)-2-azabicyclo[2.2.2]oct-7-ene-6-carboxylate hydrochloride (26.5 g, mmol), 10% palladium on carbon (2.6 g) and ethanol (200 mL) were placed on a Parr hydrogenator at 50 psi for 3.5 hours. The catalyst was removed by filtration and the solvent was removed in vacuo to afford crude ethyl 3,4,8-trimethyl-2-azabicyclo[2.2.2]-octane-6-carboxylate hydrochloride as a yellow oil, which was used directly in the next step.

reactant | ethyl 3,4,8-trimethyl-2-(phenylmethyl)-2-azabicyclo[2.2.2]oct-7-ene-6-carboxylate hydrochloride | 26.5 g | Cl.CC1N(C2C(CC1(C(=C2)C)C)C(=O)OCC)CC2=CC=CC=C2
catalyst | palladium on carbon | 2.6 g | [Pd] | Pd
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | ethyl 3,4,8-trimethyl-2-azabicyclo[2.2.2]-octane-6-carboxylate hydrochloride | Cl.CC1NC2C(CC1(C(C2)C)C)C(=O)OCC | InChI=1S/C13H23NO2.ClH/c1-5-16-12(15)10-7-13(4)8(2)6-11(10)14-9(13)3;/h8-11,14H,5-7H2,1-4H3;1H
